US07863271B2
Following general procedure GP-C1, a mixture of 2-morpholinobenzoxazole-4-carboxylic acid and 4-amino-1-methylpiperidine were coupled to provide N-(1-methylpiperidin-4-yl)-2-morpholinobenzoxazole-4-carboxamide, which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | 2-morpholinobenzoxazole-4-carboxylic acid | O1CCN(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C12H12N2O4
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
product | N-(1-methylpiperidin-4-yl)-2-morpholinobenzoxazole-4-carboxamide | CN1CCC(CC1)NC(=O)C=1C=CC=C2C1N=C(O2)N2CCOCC2 | C18H24N4O3
